US04298739
2.5 Grams of 6-(3-carboxy)propoxycarbostyril and 1.2 g of N-methylcyclohexylamine are added to a mixed solvent of 20 ml of dioxane and 20 ml of methylene chloride, and to this mixture is added dropwise a solution of 2.1 g of N,N'-dicyclohexylcarbodiimide in 5 ml of methylene chloride maintained at 10°-20° C. under external ice cooling and agitation, followed by additional 3.5-hour agitation at the same temperature. The precipitated crystals are filtered out and the filtrate is concentrated under reduced pressure and evaporated to dryness. The obtained residue is dissolved in 100 ml of methylene chloride and the organic layer is washed with a 5% aqueous solution of hydrochloric acid, a 5% aqueous solution of sodium carbonate and water in that order and then dried with anhydrous sodium sulfate. After distilling off the solvent under reduced pressure, the residue is recrystallized from chloroform-ethanol to obtain 1.9 g of 6-[3-(N-methyl-N-cyclohexylaminocarbonyl)propoxy]-carbostyril in the form of colorless needle-like crystals with melting point of 184.5°- 186° C.

reactant | 6-(3-carboxy)propoxycarbostyril | C(=O)(O)CCCOC=1C=C2C=CC(NC2=CC1)=O | C13H13NO4
reactant | N-methylcyclohexylamine | 1.2 g | CNC1CCCCC1 | C7H15N
reactant | dioxane | 20 ml | O1CCOCC1 | C4H8O2
reactant | N,N'-dicyclohexylcarbodiimide | 2.1 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 6-[3-(N-methyl-N-cyclohexylaminocarbonyl)propoxy]-carbostyril | 1.9 g | CN(C(=O)CCCOC=1C=C2C=CC(NC2=CC1)=O)C1CCCCC1 | C20H26N2O3
